US09029361B2
Part H. Preparation of (8S,9aR)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one
(8S,9aR)-8-[(5-Cyclopropylpyrazin-2-yl)oxy]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one hydrochloride was dissolved in dimethyl sulfoxide (1.0 mL). 2-Chloro-5-(trifluoromethyl)pyridine (28.0 mg, 0.154 mmol, 1.5 equivalents) and sodium carbonate (65.5 mg, 0.618 mmol, 6.0 equivalents) were added, and the resulting suspension was heated to 115° C. for 14 hours. The reaction was cooled to room temperature, diluted with ethyl acetate, and washed with water and brine, and then dried over sodium sulfate. The solvent was removed in vacuo, and the residue was purified via silica chromatography on 2 sequentially linked 4 g silica cartridges, eluting with 25:75 to 0:100 heptanes:ethyl acetate to give the titled compound (16 mg, 40% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ ppm 8.42 (s, 1H), 7.96 (dd, J=14.0, 1.2 Hz, 2H), 7.67 (dd, J=9.0, 2.4 Hz, 1H), 6.66 (d, J=9.0 Hz, 1H), 5.48 (t, J=4.0 Hz, 1H), 4.81 (d, J=14.6 Hz, 1H), 4.37-4.32 (m, 1H), 4.19-4.10 (m, 1H), 4.04 (dd, J=13.9, 2.2 Hz, 1H), 3.73 (dd, J=13.8, 4.1 Hz, 1H), 3.54-3.36 (m, 1H), 3.04 (dd, J=14.5, 9.4 Hz, 1H), 2.75 (dd, J=6.6, 3.6 Hz, 2H), 2.55 (dd, J=13.8, 5.1 Hz, 1H), 2.05-1.95 (m, 2H), 0.98-0.91 (m, 4H); 1H NMR (400 MHz, pyridine-d5) δ ppm 8.63 (s, 1H), 8.16 (d, J=1.1 Hz, 1H), 8.08 (d, J=1.2 Hz, 1H), 7.79 (dd, J=9.0, 2.4 Hz, 1H), 6.90 (d, J=9.1 Hz, 1H), 5.52 (t, J=4.0 Hz, 1H), 4.82 (d, J=14.5 Hz, 1H), 4.53-4.24 (m, 3H), 3.92 (dd, J=13.6, 4.1 Hz, 1H), 3.40 (ddd, J=14.7, 10.2, 1.9 Hz, 1H), 3.07 (dd, J=14.5, 9.4 Hz, 1H), 2.89-2.72 (m, 2H), 2.65-2.47 (m, 1H), 2.11-1.91 (m, 2H), 1.10-0.97 (m, 2H), 0.97-0.81 (m, 2H); MS (ESI+) m/z 434.1 (M+H)+; [α]D24.8=−3.2 (c=0.41, CH3OH).

reactant | (8S,9aR)-8-[(5-Cyclopropylpyrazin-2-yl)oxy]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one hydrochloride | Cl.C1(CC1)C=1N=CC(=NC1)O[C@H]1C[C@H]2N(C(CCNC2)=O)C1
reactant | 2-Chloro-5-(trifluoromethyl)pyridine | 0.154 mmol, 28.0 mg, 1.5 equivalents | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | sodium carbonate | 0.618 mmol, 65.5 mg, 6.0 equivalents | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethyl sulfoxide | 1.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8S,9aR)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one | 16 mg, 40% yield | C1(CC1)C=1N=CC(=NC1)O[C@H]1C[C@H]2N(C(CCN(C2)C2=NC=C(C=C2)C(F)(F)F)=O)C1 | C21H22F3N5O2
